US08735384B2
A microwave vessel was charged with (2-bromo-3-methylphenyl)(pyrrolidin-1-yl)methanone (0.081 g, 0.301 mmol), dicyclohexyl(2′,4′,6′-triisopropylbiphenyl-2-yl)phosphine (0.018 g, 0.038 mmol), Pd2(dba)3 (0.018 g, 0.020 mmol), potassium phosphate (0.106 g, 0.502 mmol), 2-amino-7-fluoro-3-morpholinoquinolin-6-ylboronic acid (0.073 g, 0.251 mmol), dioxane (1.6 mL) and water (0.8 mL). The vessel was purged with argon, sealed and heated by microwave radiation at 140° C. for 15 min. The mixture was concentrated, diluted with EtOAc (10 mL) and the suspension was filtered through celite rinsing with EtOAc. The filtrate was washed with saturated brine (5 mL), dried over sodium sulfate and concentrated. The material was purified by column chromatography on silica gel (33 mL) which had been deactivated with Et3N (3.3 mL) eluting with 1.5% MeOH/EtOAc to afford (2-(2-amino-7-fluoro-3-morpholinoquinolin-6-yl)-3-methylphenyl)(pyrrolidin-1-yl)methanone. MS (ESI, pos. ion) m/z: 435 (M+1).

reactant | (2-bromo-3-methylphenyl)(pyrrolidin-1-yl)methanone | 0.301 mmol, 0.081 g | BrC1=C(C=CC=C1C)C(=O)N1CCCC1 | C12H14BrNO
reactant | dicyclohexyl(2′,4′,6′-triisopropylbiphenyl-2-yl)phosphine | 0.038 mmol, 0.018 g | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=C(C=C1C(C)C)C(C)C)C(C)C)C1CCCCC1 | C33H49P
reactant | potassium phosphate | 0.502 mmol, 0.106 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | 2-amino-7-fluoro-3-morpholinoquinolin-6-ylboronic acid | 0.251 mmol, 0.073 g | NC1=NC2=CC(=C(C=C2C=C1N1CCOCC1)B(O)O)F | C13H15BFN3O3
catalyst | Pd2(dba)3 | 0.020 mmol, 0.018 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | water | 0.8 mL | O | H2O
solvent | dioxane | 1.6 mL | O1CCOCC1 | C4H8O2
product | (2-(2-amino-7-fluoro-3-morpholinoquinolin-6-yl)-3-methylphenyl)(pyrrolidin-1-yl)methanone | NC1=NC2=CC(=C(C=C2C=C1N1CCOCC1)C1=C(C=CC=C1C)C(=O)N1CCCC1)F | C25H27FN4O2
